US04529548
(B) (11β,17α)-9-Fluoro-11-hydroxy-17-(methylthio)androsta-1,4-dien-3-one
To a suspension of 50% sodium hydride/paraffin (100 mg) in dry dimethylformamide (10 ml), cooled and stirred in an ice bath, a stream of methanethiol was passed until a homogeneous solution resulted. (11β,17β)-11-(Acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one (280 mg, 0.64 mmole) was added and the solution was heated in an atmosphere of nitrogen in a bath at 100°-120° C. for 5.0 hours. The mixture was then cooled to room temperature and water (1.0 ml) was added. After stirring for 20 minutes, the mixture was poured into water and was extracted with chloroform. The chloroform solution was washed with water, dried (anhydrous magnesium sulfate) and evaporated in vacuo. The residue was dissolved in chloroform-hexane (7:3; 15 ml) and absorbed on a column of silica gel (5.0 g). The column was first eluted with chloroform to remove the paraffin. Further elution of the column with chloroform: hexane (9:1) gave the title compound (179 mg) which had a small amount of a slightly less polar impurity (tlc). One crystallization of this from ethyl acetate followed by drying (110° C., 0.3 mm of Hg, 20 hours) gave the analytical specimen (157 mg), melting point 235°-236° C. with consistent spectral data.

reactant | methanethiol | CS | CH4S
reactant | (11β,17β)-11-(Acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one | 0.64 mmole, 280 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)OS(=O)(=O)C)=O)C)F | C22H29FO6S
reactant | water | 1.0 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (11β,17α)-9-Fluoro-11-hydroxy-17-(methylthio)androsta-1,4-dien-3-one | 179 mg | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC[C@H]([C@@]1(C)C[C@@H]2O)SC)=O)C | C20H27FO2S
